US09353104B2
(4-methoxybenzyl)hydrazine hydrochloride (2.132 g, 11.30 mmol) and 3-bromofuran-2,5-dione (2 g, 11.30 mmol) in water (20 ml) was stirred and heated at 100° C. overnight. The mixture was cooled to room temperature and filtered to collect the solid. The solid was triturated with a mixture of ethyl acetate and ethyl ether (1/4) and the mixture was filtered. The insoluble residue was 4-bromo-1-(4-methoxybenzyl)-1,2-dihydropyridazine-3,6-dione. LRMS m/z (M+H) 311.0 found, 311.0 required. The filtrate was concentrated in vacuo and the residue was purified by column chromatography on silica gel (Petroleum ether: ethyl acetate=1/1)) to give 5-bromo-1-(4-methoxybenzyl)-1,2-dihydropyridazine-3,6-dione. LRMS m/z (M+H) 311.0 found, 311.0 required.

reactant | (4-methoxybenzyl)hydrazine hydrochloride | 11.30 mmol, 2.132 g | Cl.COC1=CC=C(CNN)C=C1
reactant | 3-bromofuran-2,5-dione | 11.30 mmol, 2 g | BrC=1C(OC(C1)=O)=O | C4HBrO3
solvent | water | 20 ml | O | H2O
product | 5-bromo-1-(4-methoxybenzyl)-1,2-dihydropyridazine-3,6-dione | BrC1=CC(NN(C1=O)CC1=CC=C(C=C1)OC)=O | C12H11BrN2O3
